US08044211B2
N-(5-{4-[6-amino-5-(4-fluorobenzoyl)-2-oxopyridin-1(2H)-yl]-3,5-difluorophenoxy}pentyl)-L-leucine
From Example 55. To a solution of cyclopentyl N-(5-{4-[6-amino-5-(4-fluorobenzoyl)-2-oxopyridin-1(2H)-yl]-3,5-difluorophenoxy}pentyl)-L-leucinate (33 mg, 0.05 mmol) in THF (1 ml) and water (1 ml) was added LiOH (25 mg, 1.05 mmol, 20 eq). The mixture was stirred at room temperature for 16 hours, before being heated at 80° C. for 10 hours. The mixture was concentrated under reduced pressure and water (5 ml) added. The pH was adjusted to 7 using 1M HCl and the aqueous layer extracted with 1-butanol (3×5 ml). The combined organic extracts were concentrated under reduced pressure. The solid residue was triturated with Et2O, collected by filtration and purified by preparative HPLC to provide the title compound as a white solid as the mono-TFA salt (7 mg, 24% yield). LC/MS: m/z 560 [M+H]+. 1H NMR (300 MHz, DMSO-d6) δ: 7.62-7.51 (3H, m), 7.34 (2H, m), 7.05 (2H, m), 5.72 (1H, d, J=9.8 Hz), 4.09 (2H, t, J=5.7 Hz), 3.23 (1H, m), 2.80 (2H, m), 1.79-1.43 (9H, m), 0.89 (6H, t, J=6.7 Hz).

reactant | cyclopentyl N-(5-{4-[6-amino-5-(4-fluorobenzoyl)-2-oxopyridin-1(2H)-yl]-3,5-difluorophenoxy}pentyl)-L-leucinate | 0.05 mmol, 33 mg | NC1=C(C=CC(N1C1=C(C=C(OCCCCCN[C@@H](CC(C)C)C(=O)OC2CCCC2)C=C1F)F)=O)C(C1=CC=C(C=C1)F)=O | C34H40F3N3O5
reactant | LiOH | 1.05 mmol, 25 mg, 20 eq | [Li+].[OH-]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | N-(5-{4-[6-amino-5-(4-fluorobenzoyl)-2-oxopyridin-1(2H)-yl]-3,5-difluorophenoxy}pentyl)-L-leucine | NC1=C(C=CC(N1C1=C(C=C(OCCCCCN[C@@H](CC(C)C)C(=O)O)C=C1F)F)=O)C(C1=CC=C(C=C1)F)=O | C29H32F3N3O5
